US07919504B2
tert-Butyl (S)-1-(5-(4-chlorothieno[2,3-c]pyridin-2-yl)-1,3,4-thiadiazol-2-ylamino)-3-(3-(trifluoromethyl)phenyl)propan-2-ylcarbamate.
tert-Butyl (S)-1-(5-(4-chlorothieno[2,3-c]pyridin-2-yl)-1,3,4-thiadiazol-2-ylamino)-1-oxo-3-(3-(trifluoromethyl)phenyl)propan-2-ylcarbamate was dissolved in 10 mL THF and cooled to 0° C. in a round bottom flask under nitrogen. To this flask was added 5 mL of a 1 N LiAlH4 THF solution dropwise. The resulting mixture was stirred from 0° C. to 20° C. in 2 hours and then at 20° C. for 3 hours. The reaction mixture was diluted with 20 mL THF and quenched with addition of 2 grams of Na2SO4.10H2O. After the mixture was stirred for 16 hours, it was filtered through a pad of celite. THF was removed under reduced pressure, and the remaining residue was subjected to a silica gel flash column chromatograph separation using 40% EtOAc in hexane as the eluant to yield the desired product (0.075 g, two steps y=13%) as a white solid. LCMS (API-ES) m/z (%): 570.2 (100%, M++H).

reactant | tert-Butyl (S)-1-(5-(4-chlorothieno[2,3-c]pyridin-2-yl)-1,3,4-thiadiazol-2-ylamino)-1-oxo-3-(3-(trifluoromethyl)phenyl)propan-2-ylcarbamate | ClC1=C2C(=CN=C1)SC(=C2)C2=NN=C(S2)NC([C@H](CC2=CC(=CC=C2)C(F)(F)F)NC(OC(C)(C)C)=O)=O | C24H21ClF3N5O3S2
reactant | LiAlH4 THF | 1 N | [H-].[H-].[H-].[H-].[Li+].[Al+3].C1CCOC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-Butyl (S)-1-(5-(4-chlorothieno[2,3-c]pyridin-2-yl)-1,3,4-thiadiazol-2-ylamino)-3-(3-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.075 g, 13% | ClC1=C2C(=CN=C1)SC(=C2)C2=NN=C(S2)NC[C@H](CC2=CC(=CC=C2)C(F)(F)F)NC(OC(C)(C)C)=O | C24H23ClF3N5O2S2
